### PR TITLE
[Merged by Bors] - chore: move Nat.repr_length to Data.Nat.Digits

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
There's no need to have this result so early.

No changes to the moved code.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Digits.lean [hunk 1]
```diff
@@ -77,8 +81,8 @@ In any base, we have `ofDigits b L = L.foldr (fun x y ↦ x + b * y) 0`.
 * For `b = 1`, we define `digits 1 n = List.replicate n 1`.
 * For `b = 0`, we define `digits 0 n = [n]`, except `digits 0 0 = []`.
 
-Note this differs from the existing `Nat.to_digits` in core, which is used for printing numerals.
-In particular, `Nat.to_digits b 0 = [0]`, while `digits b 0 = []`.
+Note this differs from the existing `Nat.toDigits` in core, which is used for printing numerals.
+In particular, `Nat.toDigits b 0 = [0]`, while `digits b 0 = []`.
```
Comment (adomani) [inline Mathlib/Data/Nat/Digits.lean:85]: I realise that this was already like this, but another important difference is that `Nat.toDigits` returns a list of *characters*, while `Nat.digits` yields a list of `Nat`!

File: Mathlib/Data/Nat/Digits.lean [hunk 2]
```diff
@@ -738,6 +742,81 @@ theorem eleven_dvd_of_palindrome (p : (digits 10 n).Palindrome) (h : Even (digit
   exact eq_zero_of_neg_eq this.symm
 #align nat.eleven_dvd_of_palindrome Nat.eleven_dvd_of_palindrome
 
+/-! ### `Nat.toDigits` length -/
+
+lemma to_digits_core_lens_eq_aux (b f : Nat) :
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Digits.lean:747]: While we're at it, let's fix the names.
```suggestion
lemma toDigitsCore_length_eq_aux (b f : Nat) :
```

File: Mathlib/Data/Nat/Digits.lean [hunk 3]
```diff
@@ -738,6 +742,81 @@ theorem eleven_dvd_of_palindrome (p : (digits 10 n).Palindrome) (h : Even (digit
...
+  | succ f ih =>
+    if hx : n / b = 0 then
+      simp only [hx, if_true, List.length, congrArg (fun l ↦ l + 1) hlen]
+    else
+      simp only [hx, if_false]
+      specialize ih (n / b) (Nat.digitChar (n % b) :: l1) (Nat.digitChar (n % b) :: l2)
+      simp only [List.length, congrArg (fun l ↦ l + 1) hlen] at ih
+      exact ih trivial
+
+lemma to_digits_core_lens_eq (b f : Nat) : ∀ (n : Nat) (c : Char) (tl : List Char),
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Digits.lean:761]:
```suggestion
lemma toDigitsCore_length_eq (b f : Nat) : ∀ (n : Nat) (c : Char) (tl : List Char),
```

File: Mathlib/Data/Nat/Digits.lean [hunk 4]
```diff
@@ -738,6 +742,81 @@ theorem eleven_dvd_of_palindrome (p : (digits 10 n).Palindrome) (h : Even (digit
...
+      exact lens_eq
+
+lemma nat_repr_len_aux (n b e : Nat) (h_b_pos : 0 < b) :  n < b ^ e.succ → n / b < b ^ e := by
+  simp only [Nat.pow_succ]
+  exact (@Nat.div_lt_iff_lt_mul b n (b ^ e) h_b_pos).mpr
+
+/-- The String representation produced by toDigitsCore has the proper length relative to
+the number of digits in `n < e` for some base `b`. Since this works with any base greater
+than one, it can be used for binary, decimal, and hex. -/
+lemma to_digits_core_length (b : Nat) (h : 2 <= b) (f n e : Nat)
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Digits.lean:784]:
```suggestion
lemma toDigitsCore_length (b : Nat) (h : 2 <= b) (f n e : Nat)
```

File: Mathlib/Data/Nat/Digits.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Data/Nat/Digits.lean:747]: I promise I will, but I split this out from  #9627 specifically to avoid making changes while moving code.

File: Mathlib/Data/Nat/Digits.lean [hunk 5]
```diff
@@ -77,8 +81,8 @@ In any base, we have `ofDigits b L = L.foldr (fun x y ↦ x + b * y) 0`.
 * For `b = 1`, we define `digits 1 n = List.replicate n 1`.
 * For `b = 0`, we define `digits 0 n = [n]`, except `digits 0 0 = []`.
 
-Note this differs from the existing `Nat.to_digits` in core, which is used for printing numerals.
-In particular, `Nat.to_digits b 0 = [0]`, while `digits b 0 = []`.
+Note this differs from the existing `Nat.toDigits` in core, which is used for printing numerals.
+In particular, `Nat.toDigits b 0 = ['0']`, while `digits b 0 = []`.
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Digits.lean:85]: Looks like  #10729 duplicated this work

**Review by adomani — APPROVED** [review]
LGTM!

Thanks!

I'm happy with leaving the renames to a later PR, but I'll leave that decision to the maintainers!

**Comment by Ruben-VandeVelde** [comment]
CC @mo271

**Comment by mo271** [comment]
> CC @mo271

Oops I hope I didn't disturb anything here. Other than #10729 I also did the rename suggested here: #10730

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
